US09079889B2
Sodium 6-(Methoxycarbonyl)-3-oxo-5-(trifluoromethyl)cyclohex-1-enolate (1.0 eq) was dissolved in 1M NaOH (1.0 eq), and the mixture refluxed for 1 h. After cooling to room temperature, the mixture was acidified with 5 M sulfuric acid. The mixture was extracted with EtOAc. After washing with water, the organic layer was dried over magnesium sulfate, the solvent was removed under reduced pressure to give 5-(trifluoromethyl)cyclohexane-1,3-dione, which was used to the next step without further purification (98%). LC/MS (m/z): MH+=181.1, Rt=0.55 min.

reactant | Sodium 6-(Methoxycarbonyl)-3-oxo-5-(trifluoromethyl)cyclohex-1-enolate | 1.0 eq | COC(=O)C1C(CC(C=C1[O-])=O)C(F)(F)F.[Na+]
reactant | NaOH | 1M, 1.0 eq | [OH-].[Na+]
reactant | sulfuric acid | 5 M | S(O)(O)(=O)=O | H2O4S
product | 5-(trifluoromethyl)cyclohexane-1,3-dione | FC(C1CC(CC(C1)=O)=O)(F)F | C7H7F3O2
